US07105544B2
2-(4-FLUOROPHENYL)-N-(3-{4-[3-(PROPIONYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE
Example 64 was prepared from 2-(4-fluorophenyl)propanoic acid and N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}propanamide according to the procedures described in Scheme 10: ESMS m/e: 440.4 (M+H)+.

reactant | 2-(4-fluorophenyl)propanoic acid | FC1=CC=C(C=C1)C(C(=O)O)C | C9H9FO2
reactant | N-{3-[1-(3-aminopropyl)-4-piperidinyl]phenyl}propanamide | NCCCN1CCC(CC1)C=1C=C(C=CC1)NC(CC)=O | C17H27N3O
product | 2-(4-FLUOROPHENYL)-N-(3-{4-[3-(PROPIONYLAMINO)PHENYL]-1-PIPERIDINYL}PROPYL)PROPANAMIDE | FC1=CC=C(C=C1)C(C(=O)NCCCN1CCC(CC1)C1=CC(=CC=C1)NC(CC)=O)C | C26H34FN3O2
